US05447957
d) 2-(2-amino-4-trifluoromethylphenoxy)-5-(1,1,3,3-tetramethylbutyl)benzoic acid
Methyl-2-(2-amino-4-trifluoromethylphenoxy)-5-(1,1,3,3-tetramethylbutyl)benzoate (330 mg, 0.0008 mol) was mixed in tetrahyrofuran (15 mL) and cooled to 0° C. 1N Sodium hydroxide was added and stirring was continued, allowing the mixture to warm to room temperature. After 16 h the tetrahydrofuran was evaporated and the residue mixed in water. 3N Hydrochloric acid was added, bringing the pH to 4.0. The aqueous phase was extracted with ethyl acetate. The organic phase was dried (MgSO4) and the solvent was evaporated. The residue was flash chromatographed (silica gel, ethyl acetate/hexane) to yield the title compound. 1H NMR (250 MHz, CD3OD) δ7.97 (d, 1H), 7.54 (dd, 1H), 7.09 (d, 1H), 6.71-6.98 (m, 2H), 6.60 (d, 1H), 3.83 (s, 1H), 1.79 (s, 6H), 0.73 (s, 9H).

reactant | Methyl-2-(2-amino-4-trifluoromethylphenoxy)-5-(1,1,3,3-tetramethylbutyl)benzoate | 0.0008 mol, 330 mg | COC(C1=C(C=CC(=C1)C(CC(C)(C)C)(C)C)OC1=C(C=C(C=C1)C(F)(F)F)N)=O | C23H28F3NO3
reactant | Sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahyrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(2-amino-4-trifluoromethylphenoxy)-5-(1,1,3,3-tetramethylbutyl)benzoic acid | NC1=C(OC2=C(C(=O)O)C=C(C=C2)C(CC(C)(C)C)(C)C)C=CC(=C1)C(F)(F)F | C22H26F3NO3
